US05047554
The title compound was prepared according to the procedure of Example 32. A 2.06 g (10.0 mmoles) sample of 5-methylsulfonyl-2-thiophenecarboxylic acid (prepared according to Cymerman-Craig, J., et al., J. Chem. Soc.:237 (1954)) reacted with 10 ml of thionyl chloride to give 2.14 g of crude acid chloride as a solid. The reaction of 1.75 g (8.33 mmoles) of 5-chloro-2-oxindole-1-carboxamide with 5-methylsulfonyl-2-thiophenecarbonyl chloride in the presence of 3.05 g (25.0 mmoles) of 4-(N,N-dimethylamino)pyridine gave 3.17 g of crude product after acidic workup. A single recrystallization from acetic acid gave 2.31 g (5.80 mmoles, 70% yield) of pure 5-chloro-3-(5-methylsulfonyl-2-thenoyl)-2-oxindole-1-carboxamide as a deep-orange solid, m.p. 212°-14° C.

reactant | 5-chloro-2-oxindole-1-carboxamide | 8.33 mmoles, 1.75 g | ClC=1C=C2CC(N(C2=CC1)C(=O)N)=O | C9H7ClN2O2
reactant | 5-methylsulfonyl-2-thiophenecarbonyl chloride | CS(=O)(=O)C1=CC=C(S1)C(=O)Cl | C6H5ClO3S2
catalyst | 4-(N,N-dimethylamino)pyridine | 25.0 mmoles, 3.05 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | 5-chloro-3-(5-methylsulfonyl-2-thenoyl)-2-oxindole-1-carboxamide | 5.80 mmoles, 2.31 g, 70% yield | ClC=1C=C2C(C(N(C2=CC1)C(=O)N)=O)C(C1=CC=C(S1)S(=O)(=O)C)=O | C15H11ClN2O5S2
